US05519051
The procedures of Example 14 were repeated using 21 mg of 16-azaandrosta-1,4-diene-3,17-dione in place of 16-oxaandrosta-1,4-diene-3,17-dione, and the resultant crude product was purl fie d by TLC [developing solvent; chloroform: methanol (9:1 )] to obtain 2 mg of 6-methylene-16-azaandrosta-1,4-diene-3,17-dione.

reactant | 16-azaandrosta-1,4-diene-3,17-dione | 21 mg | C[C@@]12C(NC[C@H]1[C@@H]1CCC3=CC(C=C[C@]3(C)[C@H]1CC2)=O)=O | C18H23NO2
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 6-methylene-16-azaandrosta-1,4-diene-3,17-dione | 2 mg | C=C1C[C@H]2[C@@H]3CNC([C@@]3(C)CC[C@@H]2[C@]2(C=CC(C=C12)=O)C)=O | C19H23NO2
